US04743291
A stirred mixture of 0.78 g (0.0021 mole) of 2-[2-chloro-4-fluoro-5-(4-difluoromethyl-4,5-dihydro-3-methyl-5-oxo-1H-1,2,4-triazol-1-yl)phenoxy]propionic acid, 0.42 g (0.0021 mole) of p-toluenesulfonyl isocyanate and 0.05 g (0.0004 mole) of 4-dimethylaminopyridine in 50 mL of toluene was heated at reflux for approximately 18 hours. The mixture was allowed to cool to room temperature and was stirred for 24 hours. The solvent was removed by evaporation at reduced pressure to leave a residue. This residue was purified by column chromatography on silica gel, eluting with toluene:ethyl acetate (1:1). The appropriate fractions were combined and evaporated under reduced pressure to yield 0.7 g of N-(4-methylphenylsulfonyl)-2-[2-chloro-4-fluoro-5-(4-difluoromethyl-4,5-dihydro-3-methyl-5-oxo-1H-1,2,4-triazol-1-yl)phenoxy]propionamide as a solid, Compound C10.

reactant | 2-[2-chloro-4-fluoro-5-(4-difluoromethyl-4,5-dihydro-3-methyl-5-oxo-1H-1,2,4-triazol-1-yl)phenoxy]propionic acid | 0.0021 mole, 0.78 g | ClC1=C(OC(C(=O)O)C)C=C(C(=C1)F)N1N=C(N(C1=O)C(F)F)C | C13H11ClF3N3O4
reactant | p-toluenesulfonyl isocyanate | 0.0021 mole, 0.42 g | C1(=CC=C(C=C1)S(=O)(=O)N=C=O)C | C8H7NO3S
catalyst | 4-dimethylaminopyridine | 0.0004 mole, 0.05 g | CN(C1=CC=NC=C1)C | C7H10N2
solvent | toluene | 50 mL | C1(=CC=CC=C1)C | C7H8
product | N-(4-methylphenylsulfonyl)-2-[2-chloro-4-fluoro-5-(4-difluoromethyl-4,5-dihydro-3-methyl-5-oxo-1H-1,2,4-triazol-1-yl)phenoxy]propionamide | 0.7 g | CC1=CC=C(C=C1)S(=O)(=O)NC(C(C)OC1=C(C=C(C(=C1)N1N=C(N(C1=O)C(F)F)C)F)Cl)=O | C20H18ClF3N4O5S
